US06995263B2
d] {6-[6-(4-Trifluoromethoxy-phenyl)-4-trifluoromethyl-pyridin-3-ylmethoxy]-indol-1-yl}-acetic acid
In analogy to the procedure described in example 5 g], {6-[6-(4-trifluoromethoxy-phenyl)-4-trifluoromethyl-pyridin-3-ylmethoxy]-indol-1-yl}-acetic acid ethyl ester was treated with LiOH to obtain the title compound as yellow solid.

reactant | {6-[6-(4-trifluoromethoxy-phenyl)-4-trifluoromethyl-pyridin-3-ylmethoxy]-indol-1-yl}-acetic acid ethyl ester | C(C)OC(CN1C=CC2=CC=C(C=C12)OCC=1C=NC(=CC1C(F)(F)F)C1=CC=C(C=C1)OC(F)(F)F)=O | C26H20F6N2O4
reactant | LiOH | [Li+].[OH-]
product | {6-[6-(4-Trifluoromethoxy-phenyl)-4-trifluoromethyl-pyridin-3-ylmethoxy]-indol-1-yl}-acetic acid | FC(OC1=CC=C(C=C1)C1=CC(=C(C=N1)COC1=CC=C2C=CN(C2=C1)CC(=O)O)C(F)(F)F)(F)F | C24H16F6N2O4
